2163-11-27 07:00:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
   Tolerating NGT clamp trials with minimal residuals. Does well sitting
   in chair with RSB ~20, but then in bed >100, discussion re: extubation
   concluded to hold off. otherwise no issues. has had small bm. ?
   worsening b/l pleural effusion on cxr. Sounded wheezy so goven
   alb/atrovent, and crackly, given lasix 10, put out ~ 2L. c/o R>L
   hearing fullness, but even on bedside acuity and tm benign, moderate
   amount wax, unlikely ototoxic from Abx given nl levels.
   History obtained from Patient, Family / [**Hospital 216**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 216**] Medical [**Name2 (NI) 2499**] Known
   Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-11-27**] 12:00 AM
   Vancomycin - [**2163-11-27**] 01:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2163-11-27**] 02:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: ear fullness/[**Month (only) 453**] hearing
   Nutritional Support: Parenteral nutrition
   Respiratory: Wheeze
   Flowsheet Data as of  [**2163-11-27**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 122 (100 - 122) bpm
   BP: 153/72(91) {132/63(81) - 158/88(103)} mmHg
   RR: 15 (11 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.7 kg (admission): 90 kg
   Height: 70 Inch
    CVP: 8 (4 - 12)mmHg
   Bladder pressure: 6 (6 - 6) mmHg
   Total In:
                                                                  4,693 mL
                                                                  1,112 mL
   PO:
   TF:
   IVF:
                                                                  1,338 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                  5,270 mL
                                                                  3,470 mL
   Urine:
                                                                  4,880 mL
                                                                  3,320 mL
   NG:
                                                                    275 mL
                                                                    150 mL
   Stool:
   Drains:
                                                                     65 mL
   Balance:
                                                                   -577 mL
                                                                 -2,358 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 418 (418 - 690) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 103
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: ///31/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: Well nourished, fatigued
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube, TM clear b/l w/
   mod wax, no effusion, mild erythema at bases b/l, bedside acuity even
   b/l to finger snap
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   improved/cleared wheeze/crackles from last night
   Abdominal: No(t) Non-tender, Distended, unchanged exam, wound c/d/i,
   abd tight min ttp no changes
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   1304 K/uL
   7.5 g/dL
   201 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.5 mEq/L
   12 mg/dL
   100 mEq/L
   137 mEq/L
   23.4 %
   17.6 K/uL
        [image002.jpg]
                             [**2163-11-21**]  02:16 PM
                             [**2163-11-22**]  03:23 AM
                             [**2163-11-22**]  06:32 AM
                             [**2163-11-22**]  10:31 AM
                             [**2163-11-23**]  02:00 AM
                             [**2163-11-24**]  03:09 AM
                             [**2163-11-24**]  05:32 PM
                             [**2163-11-25**]  02:02 AM
                             [**2163-11-26**]  02:07 AM
                             [**2163-11-27**]  02:32 AM
   WBC
   17.5
   20.6
   18.3
   15.7
   15.6
   16.5
   17.6
   Hct
   24.5
   24.0
   23.3
   22.3
   21.9
   21.8
   22.1
   23.4
   Plt
   [**Telephone/Fax (1) 2476**]
   1304
   Cr
   0.8
   0.8
   0.7
   0.7
   0.7
   0.7
   0.6
   0.7
   TCO2
   30
   28
   Glucose
   114
   104
   118
   106
   90
   136
   144
   201
   Other labs: PT / PTT / INR:13.2/29.3/1.1, Differential-Neuts:70.0 %,
   Band:2.0 %, Lymph:10.0 %, Mono:8.0 %, Eos:5.0 %, Lactic Acid:0.9
   mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Left cephalic superficial clot
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 TRAUMA, S/p
   diapghragmatic rupture, and below
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Grade III/IV liver laceration, grade I/II splenic lac
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 TACHYCARDIA, OTER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ASSESSMENT AND PLAN:  22 yo M, moped accident w/ resulting skull fx,
   splenic lac s/p splenectomy, liver lac, diaghragmatic rupture and now
   c/b sepsis w/ multiple intra-abdominal abscesses.
   NEUROLOGIC: Remains alert, following commands, midaz gtt prn
   PAIN: Fentanyl gtt and Dilaudid PCA
   CARDIOVASCULAR: con't tachy in 100's, BP stable
   PULMONARY: Remains intubated with chest tube in place. Ventilatory
   settings minimal, attempt to liberate from vent  Spont breathing
   trial.. ? extubation.
   GI / ABD: Has abdominal drains w/ serosang output, not frank pus at
   this time, compartment pressures have been normal, NGT output much
   improved.
   NUTRITION: Cont TPN
   RENAL: Adequate urine output, Cr stable, goa, goal remain even, gave
   small dose lasix.  Hold lasix now given the CVP of 4
   HEMATOLOGY: Stable
   ENDOCRINE: RISS
   ID: Temp consistantly < 100, cont broad spectrum Abx (Vanc/Zosyn). Will
   need post splenectomy vaccines.
   LINES/TUBES/DRAINS: ETT, Foley, Abscess drain RUQ/LUQ, Left chest tube,
   NGT
   WOUNDS: Abdomen unchanged still tight, wound c/d/i.
   ORTHO: following tibial plateau fx, needs MRI of L knee
   FLUIDS: none
   CONSULTS: Trauma, Ortho, Neurosurg, Plastics
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL: RISS + insulin in TPN
   PROPHYLAXIS: hep and H2 in TPN
   VAP BUNDLE - Yes
   COMMUNICATIONS:
   ICU Consent: Signed
   CODE STATUS: Full
   DISPOSITION: TICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2163-11-26**] 09:03 PM 100 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled, Insulin in TPN
   Lines:
   Multi Lumen - [**2163-11-18**] 11:21 PM
   Prophylaxis:
   DVT: Boots(hep in tpn)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU               31 minutes spent

2163-11-30 07:56:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
 PARACENTESIS - At [**2163-11-29**] 01:30 PM
   Drainage of 2ml fluid and sent to lab from collection in L flank area.
   No drain placed.
   Had insulin increased in TPN, started prosac and SW seeing. Had IR
   drainage of abd collection, not looking infected. Stopped reglan (since
   not concurrently on erythro, issue of tachyphylaxis)
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2163-11-30**] 12:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2163-11-30**] 12:09 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO, Parenteral nutrition
   Gastrointestinal: Nausea
   Endocrine: Hyperglycemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2163-11-30**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 114 (94 - 114) bpm
   BP: 153/77(96) {126/55(74) - 153/86(96)} mmHg
   RR: 23 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85.1 kg (admission): 90 kg
   Height: 70 Inch
             Total In:
                                                                  3,270 mL
                                                                  1,121 mL
   PO:
             TF:
   IVF:
                                                                    870 mL
                                                                    339 mL
   Blood products:
   Total out:
                                                                  4,550 mL
                                                                  1,055 mL
   Urine:
                                                                  1,930 mL
                                                                    850 mL
   NG:
                                                                  2,600 mL
                                                                    190 mL
   Stool:
   Drains:
                                                                     20 mL
                                                                     15 mL
   Balance:
                                                                 -1,280 mL
                                                                     66 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended, Tender: mild, abdomen tight per baseline,
   slightly improved
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   1542 K/uL
   6.5 g/dL
   400
   0.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   24 mg/dL
   102 mEq/L
   136 mEq/L
   20.6 %
   17.0 K/uL
        [image002.jpg]
                             [**2163-11-25**]  02:02 AM
                             [**2163-11-26**]  02:07 AM
                             [**2163-11-27**]  02:32 AM
                             [**2163-11-27**]  04:11 PM
                             [**2163-11-27**]  10:32 PM
                            [**2163-11-28**]  01:59 AM
                            [**2163-11-29**]  01:33 AM
                            [**2163-11-29**]  06:37 AM
                            [**2163-11-30**]  01:55 AM
                            [**2163-11-30**]  02:00 AM
   WBC
   15.6
   16.5
   17.6
   22.9
   22.9
   17.0
   Hct
   21.8
   22.1
   23.4
   25.2
   23.9
   24.0
   20.6
   Plt
   [**Telephone/Fax (1) **]
   1304
   1601
   1682
   1542
   Cr
   0.7
   0.6
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   Glucose
   136
   144
   201
   136
   135
   163
   151
   142
   400
   Other labs: PT / PTT / INR:14.3/28.9/1.2, Differential-Neuts:70.0 %,
   Band:2.0 %, Lymph:10.0 %, Mono:8.0 %, Eos:5.0 %, Lactic Acid:0.9
   mmol/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Left cephalic superficial clot
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 TRAUMA, S/P
   diapghragmatic rupture, and below
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Grade III/IV liver laceration, grade I/II splenic lac
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 TACHYCARDIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ASSESSMENT AND PLAN:  22 yo M, moped accident w/ resulting skull fx,
   splenic lac s/p splenectomy, liver lac, diaghragmatic rupture and now
   c/b sepsis w/ multiple intra-abdominal abscesses.
   NEUROLOGIC: Remains alert, following commands.  Antidepressants
   begun.   Met with Social Work
   PAIN: Dilaudid PCA
   CARDIOVASCULAR: con't tachy in 100's, BP stable
   PULMONARY: Extuabted, chest tube removed. Continue aggressive pulmonary
   toilet, pt doing well.
   GI / ABD: Has abdominal drains w/ serosang output, not frank pus at
   this time, compartment pressures have been normal, NGT output much
   improved.
   NUTRITION: Cont TPN, primary team would like to limit to 2400 calories
   RENAL: Adequate urine output, Cr stable, goal remain even
   HEMATOLOGY: Stable
   ENDOCRINE: RISS
   ID: Temp consistantly < 100, cont broad spectrum Abx (Vanc/Zosyn). Will
   need post splenectomy vaccines.
   LINES/TUBES/DRAINS: Foley, Abscess drain RUQ/LUQ, NGT
   WOUNDS: Abdomen improved but still tight, wound c/d/i.
   ORTHO: following tibial plateau fx, needs MRI of L knee
   FLUIDS: none
   CONSULTS: Trauma, Ortho, Neurosurg, Plastics
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL: RISS + insulin in TPN
   PROPHYLAXIS: hep and H2 in TPN
   VAP BUNDLE - Yes
   COMMUNICATIONS:
   ICU Consent: Signed
   CODE STATUS: Full
   DISPOSITION: TICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2163-11-29**] 11:50 PM 100 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Insulin in TPN,
   Comments: slightly high BS, better but may need inc yet
   Lines:
   Multi Lumen - [**2163-11-18**] 11:21 PM
   22 Gauge - [**2163-11-28**] 12:37 PM
   Prophylaxis:
   DVT: (hep in TPN)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU